US05646265
2'-O-Propylcytidine
Cytidine (16.5 g, 0.068 mol) was treated with sodium hydride (4.5 g) and bromopropane (15 ml) in DMF (150 ml) at room temperature for three days. The resulting reaction mixture was used directly in the next step (see Example 83).

reactant | Cytidine | 0.068 mol, 16.5 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | sodium hydride | 4.5 g | [H-].[Na+]
reactant | bromopropane | 15 ml | BrCCC | C3H7Br
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2'-O-Propylcytidine | C(CC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)N=C(N)C=C1 | C12H19N3O5
